US05773710
EXAMPLE 2: Adenylate Kinase Measuring Continuous Flow Luminometer
A second embodiment of the luminometer of the present invention is provided wherein an additional reagent flow is included for feeding very pure adenosine diphosphate (ADP) reagent, with respect to ATP, into the processing fluid downstream of the junction (5) where detergent is added, but upstream of the luminometer. The ADP reagent (99.95% pure with respect to ATP) is added at a flow and concentration such as to produce a concentration of 0.5 mM in the final flow. The processing fluid is pH 7.4 phosphate buffered saline or TrisHCl pH 7.8 including 0.2 mM magnesium ions.

reactant | adenosine diphosphate | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H15N5O10P2
reactant | ATP | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | phosphate buffered saline | pH 7.4 | OP(=O)(O)[O-].OP(=O)([O-])[O-].[Na+].[Na+].[Na+].[Cl-].[Cl-].[K+].[K+]
reactant | TrisHCl | pH 7.8 | C(C(CO)(CO)N)O.Cl
reactant | magnesium | 0.2 mM | [Mg] | Mg
product | Adenylate | C1=NC2=C(C(=N1)N)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)O)O)O | C10H14N5O7P
